2147-01-06 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered Mental Status
   24 Hour Events:
 ULTRASOUND - At [**2147-1-5**] 09:11 PM
   gallbladder and liver
 SPUTUM CULTURE - At [**2147-1-6**] 03:15 AM
   - spike to 100.6 axillary.  Cultured,  no abx started.
   - psych c/s recommend continuing CIWA scale as patient appeared to be
   w/d from EtOH and not in acute psychosis
   - delirum improved significantly with valium
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-1-5**] 09:44 PM
   Haloperidol (Haldol) - [**2147-1-6**] 01:32 AM
   Diazepam (Valium) - [**2147-1-6**] 07:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-6**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.2
C (97.1
   HR: 97 (97 - 123) bpm
   BP: 153/87(101) {132/50(88) - 209/166(170)} mmHg
   RR: 27 (18 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,335 mL
                                                                    860 mL
   PO:
             TF:
   IVF:
                                                                  1,335 mL
                                                                    860 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                  1,190 mL
   Urine:
                                                                    670 mL
                                                                  1,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,065 mL
                                                                   -331 mL
   Respiratory support
   O2 Delivery Device: None, Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: alert, agitated, NAD
   Eyes / Conjunctiva: PERRL, b/l periorbital ecchymoses
   Cardiovascular: tachycardic, no mrg
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: bronchial breath sounds
   Abdominal: Soft, Bowel sounds present, mild TTP in RUQ
   Extremities: no [**Location (un) **]
   Skin:  warm, heal bruises on faces
   Neurologic: a/o to person, place and year
   Labs / Radiology
   81
   93
   0.6
   23
   3.4
   3
   110
   141
   31.6
   3.8
        [image002.jpg]
   Ca 7.6
   Mg 2.3
   Phos 3.3
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   This is a 44 y/o female admitted from an inpatient psych unit for
   concern for EtOH withdrawal.  Patient received 180 mg valium in the ED
   without effect.  Concern for acute psychosis vs. alcohol withdrawal.
   Psych consult advised that symptoms c/w EtOh withdrawal and not acute
   psychosis
   # Altered mental statu:   Likely [**1-23**] EtOH withdrawal as patient has
   improved with valium.   No fevers per records and no leukocytosis.
   Unclear if underlying infection playing a role. CXR WNL and U/A was
   negative. BCx and UCx sent. Mild hyperbilirubinemia with a TB of 3.
   Serum and urine tox screen were positive for only benzos which the pt
   receives on a regular basis. Pt reports last drink of alcohol was this
   past Friday.
   -Valium 15-30mg iv for CIWA>10
   - no signs/symptoms or clinical evidence for meningitis, no indication
   for LP at this time, will not continue ABx, D/C droplet precautions
   - RUQ U/S read pending
   - psych following, appreciate recs
   # Pancytopenia - [**Month (only) 11**] be [**1-23**] to chronic alcohol use. No prior values for
   comparison. Will send LDH to r/o hemolysis, although unlikely given
   stable HCT over the past two days.
   - will monitor for now, will need out patient f/u
   - hemolysis labs negative
   # Hyperbilirubinemia:  Unclear cause, no evidence of hemolysis
   - trend
   # HTN
   - restarted clonidine in patch form given marked HTN, may be [**1-23**] to
   withdrawal/psychosis but rebound HTN may cloud the clinical picture so
   best to re-start her home regimen
   # FEN: NPO except meds for now given acute delerium, aggressive lyte
   repletion, IVF with bolus as needed
   ICU Care
   Nutrition: Sips/ice chips
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2147-1-5**] 05:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: with patient
   Code status: Full code
   Disposition:ICU

2147-01-07 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - trialed pt on IV haldol per Psych recs as Psych were concerned about
   Benzo intoxication, no improvement pt very agitated. Psych consulted
   again recommended changing to CIWA scale with Haldol for EtoH
   withdrawal. Pt required large amounts of Benzos (approx 600mg) and
   still was very agitated even with 10mg IV Haldol q1hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-1-6**] 08:06 AM
   Pantoprazole (Protonix) - [**2147-1-6**] 10:55 AM
   Diazepam (Valium) - [**2147-1-7**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-7**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 104 (98 - 130) bpm
   BP: 160/91(107) {129/75(89) - 198/116(169)} mmHg
   RR: 23 (21 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,533 mL
                                                                    200 mL
   PO:
                                                                  1,650 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,883 mL
   Blood products:
   Total out:
                                                                  5,015 mL
                                                                    375 mL
   Urine:
                                                                  5,015 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,482 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   S: Pt states she is thirsty and wants to go home as nothing is wrong
   with her. She does not endorse any hallucinations currently.
   Physical Examination
   General Appearance: Alert, agitated, NAD
   Eyes / Conjunctiva: PERRL, b/l periorbital ecchymoses
   Cardiovascular: tachycardic, no mrg
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: CTA bilat
   Abdominal: Soft, Bowel sounds present, mild TTP in RUQ
   Extremities: no [**Location (un) **]
   Skin:  warm, heal bruises on faces
   Neurologic: a/o to person, place and year
   Labs / Radiology
   106 K/uL
   11.3 g/dL
   93 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.2 mEq/L
   4 mg/dL
   106 mEq/L
   139 mEq/L
   31.5 %
   5.6 K/uL
        [image002.jpg]
                             [**2147-1-6**]  07:15 AM
                             [**2147-1-7**]  05:17 AM
   WBC
   3.8
   5.6
   Hct
   31.6
   31.5
   Plt
   81
   106
   Cr
   0.6
   0.7
   Glucose
   93
   93
   Other labs: PT / PTT / INR:15.4/29.8/1.4, ALT / AST:15/38, Alk Phos / T
   Bili:63/2.7, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   44 y/o female admitted from an inpatient psych unit for concern for
   EtOH withdrawal.  Patient received 180 mg valium in the ED without
   effect.  Concern for acute psychosis vs. alcohol withdrawal.  Psych
   consult advised that symptoms c/w EtOh withdrawal and not acute
   psychosis
   # Altered mental status:  Unclear as to the etiology of the pt
   altered mental status, she does have components that would be explained
   by Etoh withdrawal but also for psychosis. Psych initially were
   concerned about Benzo intoxication, and recommended IV Haldol however
   given lack of response psych was reconsulted and it was decided
   symptoms were [**1-23**] EtoH withdrawal. Pt is currently 8 days away from
   last Etoh use and has not been diaphoretic, or displayed tremors. Her
   CIWA scale has been elevated only due to her agitated state.  Will
   follow with psych today as to other recommendations for management
   seeing that the Benzo therapy and Haldol has not been as effective.
   Psych currently is getting in touch with the MH centre in [**Location (un) 1792**] to
   see if pt has any psych diagnoses or medication regimens.
   -Will continue Valium 15-30mg iv for CIWA>10, IV Haldol pending further
   Psych recs
   # Pancytopenia - [**Month (only) 11**] be [**1-23**] to chronic alcohol use, pancytopenia has
   improved over the past few days.
   - will continue to trend
   - hemolysis labs negative
   # Hyperbilirubinemia:  Unclear cause, no evidence of hemolysis. U/S
   taken on [**1-5**] showed cholelithiasis at neck of Gb but not signs of
   cholestasis. Pt
s abdomen exam is also benign.
   - trend bilirubin
   # HTN : Pt was restarted on her Clonidine patch yesterday. Pt has been
   hypertensive from SBP 150s-190s initially thought to be withdrawal may
   actually be a component of her agitation and rebound HTN after her
   Clonidine patch was d/c
   - Will continue to trend, goal SBP is 120-160s.
   # FEN: Pt;s mentation has improved, will start on regular diet. Replete
   lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-1-7**] 12:24 AM
   Prophylaxis:
   DVT: Not indicated
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-01-08 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: EtOh withdrawal/delirium
   24 Hour Events:
   - The patient remained very agitated during the day.  She had received
   ~ 620 mg of valium total yesterday and this am, so psych recommended
   using haldol instead of valium as she was likely valium intoxicated.
   She got 10 mg of po haldol x 2, then 30 mg IV valium x 1, then 5 mg of
   zyprexa x 1 and continued to have agitation.  She then received another
   10 mg IV valium.  Psych was recontacted and recommended giving 5 mg IV
   haldol q1h prn.  She became so agitated that security had to be called
   non-urgently to place leather restraints as she was almost climbing out
   of bed with the cloth restraints in place.  She continued to receive
   haldol q1h, but her agitation grew and psych had to come and reevalute
   her.  They felt her agitation was consistent with delirium and
   continued to recommend avoid benzos and giving haldol 5-10 mg q1h prn.
   As her QTc was becoming getting longer (up to 466) they stated if it
   became > 500, she could be loaded with depakote orally.  Also wanted to
   check an EKG after each haldol dose.
   - TSH, Vit B12, folate, haptoglobin, and thiamine was ordered.  TSH,
   Vit B12, and folate were WNL.  haptoglobin < 20.
   History obtained from Patient
   Patient unable to provide history: delirious
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-1-7**] 08:00 AM
   Haloperidol (Haldol) - [**2147-1-8**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-8**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.3
   HR: 85 (84 - 110) bpm
   BP: 105/64(73) {98/64(73) - 170/143(148)} mmHg
   RR: 27 (14 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 81 kg
             Total In:
                                                                  1,765 mL
                                                                     69 mL
   PO:
                                                                  1,700 mL
             TF:
   IVF:
                                                                     65 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,032 mL
                                                                    235 mL
   Urine:
                                                                  1,032 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    733 mL
                                                                   -166 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: sleeping
   Eyes / Conjunctiva: PERRL, b/l ecchymoses periorbitally
   Cardiovascular: regualr rate, no mrg
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: CTAB
   Abdominal: Soft, Bowel sounds present, mild TTP in RUQ
   Extremities: no [**Location (un) **]
   Skin:  warm, heal bruises on faces
   Neurologic: a/o to person, place and year
   Labs / Radiology
   119 K/uL
   11.1 g/dL
   93 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.7 mEq/L
   7 mg/dL
   108 mEq/L
   139 mEq/L
   31.8 %
   6.3 K/uL
        [image002.jpg]
                             [**2147-1-6**]  07:15 AM
                             [**2147-1-7**]  05:17 AM
                             [**2147-1-7**]  08:27 PM
                             [**2147-1-8**]  01:48 AM
   WBC
   3.8
   5.6
   6.8
   6.3
   Hct
   31.6
   31.5
   32.7
   31.8
   Plt
   81
   106
   123
   119
   Cr
   0.6
   0.7
   0.7
   0.6
   Glucose
   93
   93
   86
   93
   Other labs: PT / PTT / INR:15.6/28.9/1.4, ALT / AST:16/37, Alk Phos / T
   Bili:64/2.0, Albumin:4.0 g/dL, LDH:250 IU/L, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES
   44 y/o female admitted from an inpatient psych unit for concern for
   EtOH withdrawal.  Patient received 180 mg valium in the ED without
   effect.  Concern for acute psychosis vs. alcohol withdrawal.  Psych
   consult advised that symptoms c/w EtOh withdrawal and not acute
   psychosis.
   # Altered mental status:  Unclear as to the etiology of the pt
   altered mental status, she does have components that would be explained
   by EtoH withdrawal but also for psychosis. Psych initially was
   concerned about Benzo intoxication, and recommended IV Haldol however
   given lack of response psych was reconsulted and it was decided
   symptoms were [**1-23**] EtoH withdrawal. Thes yesterday when patient
   continued to be unresponsive to BZ, psych reevaluated and felt that she
   was benzo intoxicated and recommended halol q1h prn for agitation.  Pt
   is currently 9 days away from last EtoH use (though her history is
   unreliable) and has not been diaphoretic, or displayed tremors. Her
   CIWA scale has been elevated only due to her agitated state. .Psych
   currently is getting in touch with the MH centre in [**Location (un) 1792**] to see if
   pt has any psych diagnoses or medication regimens.
   - psych following, appreciate recs
   - will start standin haldol 5mg po given intemittently escalating
   agitation with only prn dosing
   - continue haldol prn q1h per psych recs
   - continue to hold valium
   - qday EKG to monitor QTc
   # Pancytopenia - Ptl 119, hct 31 this morning, improving.  [**Month (only) 11**] be [**1-23**]
   to chronic alcohol use.  Hemolysis labs negative. B12 and folate wnl,
   RPR pending, thiamine pending
   - f/u RPR and thiamine
   - will continue to trend
    # Hyperbilirubinemia:  T-bili 2 this morning, down from 3 on
   admission. Unclear cause, no evidence of hemolysis. U/S taken on [**1-5**]
   showed cholelithiasis at neck of Gb but not signs of cholestasis. Pt
   abdomen exam is also benign.
   - trend bilirubin
   # HTN : Pt was restarted on her Clonidine patch several days ago. Pt
   had been hypertensive from SBP 150s-190s initially thought to be
   withdrawal may actually be a component of her agitation and rebound HTN
   after her Clonidine patch was d/c
   - Will continue to trend, goal SBP is 120-160s.
   - continue clonidine patch
   # FEN: Pt's mentation has improved, will start on regular diet. Replete
   lytes PRN
   ICU Care
   Nutrition: : Regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2147-1-8**] 02:02 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She continues to need high doses of IV haldol for control of agitation.
   She is finally asleep as a consequence with Qtc close to .47ms. She has
   been able to request and take liquids and food without distress.
   Exam notable for Tm  99.5 BP of 138/77  HR of 86 RR  of 12 with sats of
   95% on RA .
   Labs notable for WBC 6.3K, HCTof 31.8 , plts of 118K ,Cr  of 0.6, and
   Na of 139  EKG with QTc of 0.47 .
   Agree with plan to continue with haldol ( PO standing and IV prn) and
   benzodiazepines for agitation if needed given prolonging QTc.
   Psychiatry colleagues to advise regarding other antipsychotic agents as
   this is less likely to be ETOH withdrawal given exam and temporal
   profile of symptoms.
   Remainder of plan as outlined above.
   Patient is hemodynamically stable but in need of close monitoring and
   nursing help with sitter in room
   Total time: 25 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2147-1-8**] 12:24 PM ------

2147-01-09 06:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started haldol 5mg po q4h standing
   -significantly less agitated, now consistenly oriented to person and
   place.  Able to state the name/number of her HCP.
   - pysch rec to continue current management.  There was concern over
   needing a valium taper, but felt that she will autotaper as she
   received a significant amount of iv valium which accumulates in adipose
   tissue and will slowly decrease over time.  However, need to watch for
   benzo withdrawal.
   This am she is oriented x 3 and admits to pain in her lower back and
   abdomen.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-1-8**] 08:00 AM
   Haloperidol (Haldol) - [**2147-1-8**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-9**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 75 (72 - 95) bpm
   BP: 102/51(63) {81/44(53) - 138/77(93)} mmHg
   RR: 33 (19 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 81 kg
                  Total In:
                                                                  1,155 mL
                                                                    580 mL
   PO:
                                                                    920 mL
                                                                    580 mL
   TF:
   IVF:
                                                                    235 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                    450 mL
   Urine:
                                                                    910 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    245 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93% on RA
   ABG: ///21/
   Physical Examination
   General Appearance: Middle-aged female lying in bed in NAD
   Eyes / Conjunctiva: PERRL, b/l ecchymoses periorbitally
   Cardiovascular: RRR, no MRG
   Peripheral Vascular: 2+ distal pulses bilaterally
   Respiratory / Chest: CTAB
   Abdominal: Soft, Bowel sounds present, mild TTP in her epigastric
   region
   Extremities: no [**Location (un) **]
   Skin:  warm, healing bruises on her face
   Neurologic: Alert and oriented to person, place, month, and year.
   Labs / Radiology
   169 K/uL
   11.6 g/dL
   114 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.0 mEq/L
   9 mg/dL
   106 mEq/L
   135 mEq/L
   32.8 %
   10.9 K/uL
        [image002.jpg]
                             [**2147-1-6**]  07:15 AM
                             [**2147-1-7**]  05:17 AM
                             [**2147-1-7**]  08:27 PM
                             [**2147-1-8**]  01:48 AM
                             [**2147-1-9**]  03:56 AM
   WBC
   3.8
   5.6
   6.8
   6.3
   10.9
   Hct
   31.6
   31.5
   32.7
   31.8
   32.8
   Plt
   81
   106
   123
   119
   169
   Cr
   0.6
   0.7
   0.7
   0.6
   0.7
   Glucose
   93
   93
   86
   93
   114
   Other labs: PT / PTT / INR:15.6/28.9/1.4, ALT / AST:16/37, Alk Phos / T
   Bili:64/2.0, Albumin:4.0 g/dL, LDH:250 IU/L, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   [1][**2147-1-7**]
   SEROLOGY/BLOOD
   RAPID PLASMA REAGIN TEST-PENDING
   INPATIENT
   [2][**2147-1-6**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [3][**2147-1-5**]
   URINE
   URINE CULTURE-FINAL
   EMERGENCY [**Hospital1 **]
   [4][**2147-1-5**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [5][**2147-1-5**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   44 y/o female admitted from an inpatient psych unit for concern for
   EtOH withdrawal.  Patient received 180 mg valium in the ED without
   effect.  Concern for acute psychosis vs. alcohol withdrawal, now
   improving.
    # Altered mental status:  Unclear as to the etiology of the pt
   altered mental status, she does have components that would be explained
   by EtoH withdrawal but also for psychosis. Psych initially was
   concerned about Benzo intoxication, and recommended IV Haldol however
   given lack of response psych was reconsulted and it was decided
   symptoms were [**1-23**] EtoH withdrawal. Then two days when patient continued
   to be unresponsive to BZ, psych reevaluated and felt that she was benzo
   intoxicated and recommended halol q1h prn for agitation.  Pt is
   currently 10 days away from last EtoH use (though her history is
   unreliable) and has not been diaphoretic, or displayed tremors. Her
   CIWA scale has been elevated only due to her agitated state.
   - psych following, appreciate recs
   - will continue standing haldol now at 5mg tid
   - continue haldol prn q1h per psych recs
   - continue to hold valium and monitor for benzo withdrawal.
   - qday EKG to monitor QTc, monitor and replete K and Mg.
   - f/u RPR and thiamine
   # Pancytopenia - Ptl 169, hct 32.8 this morning, improving.  [**Month (only) 11**] be [**1-23**]
   to chronic alcohol use.  Hemolysis labs negative. B12 and folate wnl,
   thiamine pending
   - will continue to trend
   # Hyperbilirubinemia:  T-bili 2 yesterday, down from 3 on admission.
   Unclear cause, no evidence of hemolysis. U/S taken on [**1-5**] showed
   cholelithiasis at neck of Gb but not signs of cholestasis. Pt
s abdomen
   exam is also benign.  Likely from breakdown of her recent bruises.
   - trend bilirubin
   # HTN : Pt was restarted on her Clonidine patch several days ago. Pt
   had been hypertensive from SBP 150s-190s initially thought to be
   withdrawal may actually be a component of her agitation and rebound HTN
   after her Clonidine patch was d/c
d.   As her agitation has improved,
   her BP
s have stabilized.
   - continue clonidine patch
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-1-8**] 02:02 AM
   Prophylaxis:
   DVT: Ambulation, no SQH given thrombocytopenia
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Can be called out to the floor today.
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Ms [**Name13 (STitle) 3474**] has required less Haldol over the past 24 hours and only 10
   mg Valium overnight. She is now oriented to place and time too and does
   admit to a long term pattern of alcohol abuse. Last period of
   abstinence was greater than 2 years ago. She does feel anxious
   Exam notable for Tm of 99.1 BP of 121/66 HR of 74 RR of 10 with sats of
   95% on RA. She has good air movement in all lung fields. She is not
   tremulous. There is no peripheral edema. Labs notable for WBC 10.9 K,
   HCT of 32.8 , K+  of 4.0, Cr of 0.6. EKG shows QTc fo 0.472 ms
   Agree with plan to transition to standing PO haldol and prn Valium. She
   will need transfer to Psych facility if psychiatrists decide that is
   best for her safety and assessment. She is medically cleared at this
   time
   Remainder of plan as outlined above.
   Patient is stable
   Total time: 20 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**], MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2147-1-9**] 12:21 PM ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);